US05891889
Step C: Preparation of 4-hydroxymethyl-4-(3-tolylsulfanyl)piperidine hydrochloride salt
A solution of N-tert-butoxycarbonyl-4-hydroxymethyl-4-(3-tolylsulfanyl)piperidine (0.27 g) in dichloromethane (25 mL) at 0° C. was saturated with hydrogen chloride gas. The resultant solution was sealed with a rubber septum and stirred at 0° C. for one h. The product solution was concentrated under vacuum to provide the title compound.

reactant | N-tert-butoxycarbonyl-4-hydroxymethyl-4-(3-tolylsulfanyl)piperidine | 0.27 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(SC=1C=C(C=CC1)C)CO | C18H27NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-hydroxymethyl-4-(3-tolylsulfanyl)piperidine hydrochloride salt | Cl.OCC1(CCNCC1)SC=1C=C(C=CC1)C | InChI=1S/C13H19NOS.ClH/c1-11-3-2-4-12(9-11)16-13(10-15)5-7-14-8-6-13;/h2-4,9,14-15H,5-8,10H2,1H3;1H
